US05489583
e) Preparation of 3-(2-naphthalenesulfonylamino)-1-[2-(4-cyanophenyl)-1-piperidinocarbonylethyl]-2-piperidinone
2.5 g (~7.5 mmol) of 3-[3-(2-naphthalenesulfonylamino)oxazolidin-5-on-4-yl]propanal, as crude product, in 15 ml of methylene chloride, 2.2 g (7.5 mmol) of p-cyanophenylalaninylpiperidine hydrochloride in 15 ml of methylene chloride and 1.2 g (14.6 mmol) of sodium acetate were successively added to 7.5 g of freshly activated molecular sieves (4 Å) in 30 ml of methanol. The mixture was cooled to about 12° C. and then 0.9 g (14.3 mmol) of sodium cyanoborohydride dissolved in 20 ml of THF was added dropwise over the course of 35 min, and the mixture was stirred at room temperature for 3 h. The solids were then removed by filtration and washed with methylene chloride, the collected filtrates were evaporated under reduced pressure, the residue was taken up in ethyl acetate, and the solution was washed with dilute aqueous sulfamic acid solution (pH 1) and five times with saturated brine, dried over magnesium sulfate and evaporated under reduced pressure. Chromatography on silica gel (0.063-0.200 mm/eluent methylene chloride/methanol) resulted in 3.5 g (85% of theory over 3 stages) of pure 3-(2-naphthalenesulfonylamino)-1-[2-(4-cyanophenyl)-1-piperidinocarbonylethyl]-2-piperidinone.

reactant | 3-[3-(2-naphthalenesulfonylamino)oxazolidin-5-on-4-yl]propanal | ~7.5 mmol, 2.5 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NN1COC(C1CCC=O)=O | C16H16N2O5S
reactant | p-cyanophenylalaninylpiperidine hydrochloride | 7.5 mmol, 2.2 g | Cl.C(#N)C1=CC=C(C[C@H](N)C(=O)N2CCCCC2)C=C1
reactant | sodium acetate | 14.6 mmol, 1.2 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 14.3 mmol, 0.9 g | C(#N)[BH3-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
product | 3-(2-naphthalenesulfonylamino)-1-[2-(4-cyanophenyl)-1-piperidinocarbonylethyl]-2-piperidinone | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1C(N(CCC1)C(CC1=CC=C(C=C1)C#N)C(=O)N1CCCCC1)=O | C30H32N4O4S
